US05824690
Synthesis of 1-[2-[3-(3,4-difluoro-phenyl)-1-(3,4,5-trimethoxy-benzoyl)-pyrrolidin-3-yl]-ethyl]-4-(pyridin-3-yl)-piperidine-4-carboxylic acid amide
Combine 2-[1-(3,4,5-trimethoxy-benzoyl)-3-(3,4-difluoro-phenyl)-pyrrolidin-3-yl]-ethyl-methanesulfonate (prepared from (-)-2-[3-(3,4-difluoro-phenyl)-pyrrolidin-3-yl]-ethanol (R,R)-di-p-anisoyltartaric acid salt)(0.6 g, 1.2 mmol), potassium carbonate (0.46 g, 3.4 mmol), and 4-(pyridin-3-yl)-piperidine-4-carboxylic acid amide in tetrahydrofuran (6 mL)/ water (2 mL). Heat to reflux. After 64 hours, evaporate the reaction mixture in vacuo to remove most of the tetrahydrofuran and combine with dichloromethane. Extract with a saturated aqueous solution of sodium bicarbonate. Dry the organic layer over MgSO4, filter, and concentrate in vacuo to give a residue. Chromatograph the residue on silica gel eluting sequentially with 1% methanol/dichloromethane, 3% methanol/dichloromethane, 5% methanol/dichloromethane, dichloromethane/methanol/concentrated ammonia (464/35/2.5) and then, dichloromethane/methanol/concentrated ammonia (450/50/2.5) to give the title compound: Rf =0.17 (silica gel, dichloromethane/methanol/concentrated ammonia 9/1/0.05).

reactant | 2-[1-(3,4,5-trimethoxy-benzoyl)-3-(3,4-difluoro-phenyl)-pyrrolidin-3-yl]-ethyl-methanesulfonate | 1.2 mmol, 0.6 g | COC=1C=C(C(=O)N2CC(CC2)(C2=CC(=C(C=C2)F)F)CCCS(=O)(=O)[O-])C=C(C1OC)OC
reactant | potassium carbonate | 3.4 mmol, 0.46 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-(pyridin-3-yl)-piperidine-4-carboxylic acid amide | N1=CC(=CC=C1)C1(CCNCC1)C(=O)N | C11H15N3O
reactant | water | 2 mL | O | H2O
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
solvent | dichloromethane methanol | ClCCl.CO
solvent | methanol dichloromethane | CO.ClCCl
product | 1-[2-[3-(3,4-difluoro-phenyl)-1-(3,4,5-trimethoxy-benzoyl)-pyrrolidin-3-yl]-ethyl]-4-(pyridin-3-yl)-piperidine-4-carboxylic acid amide | FC=1C=C(C=CC1F)C1(CN(CC1)C(C1=CC(=C(C(=C1)OC)OC)OC)=O)CCN1CCC(CC1)(C(=O)N)C=1C=NC=CC1 | C33H38F2N4O5
